US05861510
To a solution of (4-methoxybenzenesulfonylamino) acetic acid t-butyl ester (3.0 grams, 10 mmol) in tetrahydrofuran-dimethylformamide (mL, ca. 3:1) at 0° C. is added sodium bis(trimethylsilyl)amide (10.0 mL, 1.0M solution in tetrahydrofuran). After 10 minutes, 4-bromo-2-methyl-2-butene (1.27 μL, 11.0 mmol) is added. The mixture is warmed to room temperature, stirred for 1 hour and quenched with saturated ammonium chloride solution. The mixture is extracted with ethyl acetate and the combined extracts are dried (sodium sulfate), filtered and concentrated. The crude product is purified by silica gel chromatography (elution with 1:1 ethyl acetate-hexanes) to provide [(4-methoxybenzenesulfonyl)-(3-methyl-but-2-enyl)-amino]-acetic acid t-butyl ester.

reactant | (4-methoxybenzenesulfonylamino) acetic acid t-butyl ester | 10 mmol, 3.0 grams | C(C)(C)(C)OC(CNS(=O)(=O)C1=CC=C(C=C1)OC)=O | C13H19NO5S
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 10.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-bromo-2-methyl-2-butene | 11.0 mmol, 1.27 μL | BrCC=C(C)C | C5H9Br
solvent | tetrahydrofuran dimethylformamide | O1CCCC1.CN(C=O)C
product | [(4-methoxybenzenesulfonyl)-(3-methyl-but-2-enyl)-amino]-acetic acid t-butyl ester | C(C)(C)(C)OC(CN(CC=C(C)C)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C18H27NO5S
